US09370522B2
A solution of (E)-methyl 3-(2,3-bis(4-methoxyphenyl)quinoxalin-6-yl)acrylate (150 mg, 0.35 mmol, 1.00 equiv) and sodium hydroxide (70.4 mg, 1.76 mmol, 5.00 equiv) in methanol (10 mL) and H2O (2 ml) was stirred for 2 h at 50° C. in an oil bath. The resulting mixture was concentrated under vacuum, diluted with 20 mL of water. The pH value of the solution was adjusted to 3 with 1N hydrochloric acid. The solids were collected by filtration, and purified by re-crystallization from methanol, affording 80 mg (55%) of (E)-3-(2,3-bis(4-methoxyphenyl)quinoxalin-6-yl)acrylic acid as a yellow solid.

reactant | (E)-methyl 3-(2,3-bis(4-methoxyphenyl)quinoxalin-6-yl)acrylate | 0.35 mmol, 150 mg, 1.00 equiv | COC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1C1=CC=C(C=C1)OC)/C=C/C(=O)OC | C26H22N2O4
reactant | sodium hydroxide | 1.76 mmol, 70.4 mg, 5.00 equiv | [OH-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
solvent | H2O | 2 ml | O | H2O
product | (E)-3-(2,3-bis(4-methoxyphenyl)quinoxalin-6-yl)acrylic acid | 80 mg, 55% | COC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1C1=CC=C(C=C1)OC)/C=C/C(=O)O | C25H20N2O4
